US07872014B2
A solution of 6-fluoro-2,2-dimethyl-4H-1,3-benzodioxine-8-carbaldehyde (20 g, 95 mmol) in dichloroethane (100 mL) was treated with m-CPBA (70% pure, 28.1 g, 114 mmol) at 70° C. for 20 min. After cooling to rt, ethyl acetate (300 mL) was added. The organic mixture was then washed with 10% aqueous sodium thiosulfate followed by 1 N KOH (114 mmol) followed by 3 washes with aqueous NaHCO3 (sat). The organic phase was then dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in THF (100 mL), and then 1 M KOH (100 mL) was added. The mixture was stirred for 20 min at rt. The pH was adjusted to 6 by the slow addition of 1 N HCl (aq). Ethyl acetate was then added, and the layers were partitioned. The aqueous phase was extracted with ethyl acetate. The organic extracts were combined, dried over magnesium sulfate, filtered, and concentrated in vacuo. 6-Fluoro-2,2-dimethyl-4H-1,3-benzodioxin-8-ol was isolated as a brown liquid (17.2 g, 86.6 mmol, 91% yield). 1H NMR (400 MHz, CDCl3): δ 6.56 (dd, 1H), 6.28-6.25 (m, 1H), 5.57 (br s, 1H), 4.79 (s, 2H), 1.56 (s, 6H); GCMS for C10H11FO3: 198 (M+).

reactant | 6-fluoro-2,2-dimethyl-4H-1,3-benzodioxine-8-carbaldehyde | 95 mmol, 20 g | FC1=CC2=C(OC(OC2)(C)C)C(=C1)C=O | C11H11FO3
reactant | m-CPBA | 114 mmol, 28.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | KOH | 114 mmol, 1 N | [OH-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 6-Fluoro-2,2-dimethyl-4H-1,3-benzodioxin-8-ol | FC1=CC2=C(OC(OC2)(C)C)C(=C1)O | C10H11FO3
